US05489586
A mixture of 2,3-dihydro-9-methoxy-[1]benzothieno[2,3-f]-1,4-thiazepin-5(4H)-one (200 mg, 0.75 mmol) and NaBO3 -4H2O(116 mg, 0.75 mmol) in 18 mL of AcOH is stirred at room temperature overnight. The reaction mixture is filtered and 60 mL of water is added to the filtrate. Filtration provides 2,3-dihydro-9-methoxy-[1]benzothieno[2,3-f]-1,4-thiazepin-5(4H)-one-1-oxide in 69% yield; mp 215°-216° C. (dec).

reactant | 2,3-dihydro-9-methoxy-[1]benzothieno[2,3-f]-1,4-thiazepin-5(4H)-one | 0.75 mmol, 200 mg | COC=1C=CC2=C(C1)C1=C(C(NCCS1)=O)S2 | C12H11NO2S2
reactant | AcOH | 18 mL | CC(=O)O | C2H4O2
product | 2,3-dihydro-9-methoxy-[1]benzothieno[2,3-f]-1,4-thiazepin-5(4H)-one-1-oxide | 69% yield | COC=1C=CC2=C(C1)C1=C(C(NCCS1=O)=O)S2 | C12H11NO3S2
